US06914058B2
1-(2,6-Difluoro-4-nitrophenyl)-piperidin-4-one
To a suspension of anhydrous potassium carbonate (11.80 g, 85.90 mmol) in DMF (30 ml) was added a solution of 4-piperidinone (7.20 g, 47.2 mmol) in DMF (5 ml) followed by the addition of 3,4,5-trifluoronitrobenzene (7.00 g, 42.8 mmol) and stirred at room temperature for 3 h. The reaction mixture was poured onto ice water and the resulting solid was filtered off. Drying the solid under vacuum yielded the title compound as yellow powder (4.50 g, 45%).

reactant | potassium carbonate | 85.90 mmol, 11.80 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-piperidinone | 47.2 mmol, 7.20 g | N1CCC(CC1)=O | C5H9NO
reactant | 3,4,5-trifluoronitrobenzene | 42.8 mmol, 7.00 g | FC=1C=C(C=C(C1F)F)[N+](=O)[O-] | C6H2F3NO2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-(2,6-Difluoro-4-nitrophenyl)-piperidin-4-one | 4.50 g, 45% | FC1=C(C(=CC(=C1)[N+](=O)[O-])F)N1CCC(CC1)=O | C11H10F2N2O3
